US06080862
Preparation of (+)-methyl-(1S,2R,3S)-5-Propoxy-1-(3,4-methylenedioxy-phenyl)-3-(2-[carbomethoxy]methoxy-4-methoxyphenyl)indane-2-carboxylate
A 1 L 3 necked round-bottom flask equipped with an air driven stirrer, and a nitrogen inlet/outlet was charged with 49.0 g (102.8. mmol) of methyl-(1S,2R,3S)-1-(3,4-methylenedioxyphenyl)-3-(4-methoxy-2-hydroxyphenyl)-5-propoxyindane-2-carboxylate, 490 mL of acetone, 71.0 g of potassium carbonate and 17.3 g (110 mmol) of methyl bromoacetate. The resulting slurry was stirred at ambient temperature under an atmosphere of nitrogen while the progress of the reaction was monitored by HPLC. The reaction was deemed to be complete when all the starting material had been converted to the title compound. The slurry was filtered through 50 g of Aluminium oxide rinsing with 1250 mL of acetone. The resulting filtrate was concentrated under reduced pressure to a volume of approximately 100 mL. The concentrate was diluted with 500 mL of t-butyl methyl ether then washed with 2×300 mL portions of 5% aqueous citric acid followed by drying over anhydrous magnesium sulphate. The resulting solution was concentrated under reduced pressure to afford 49.2 g of the title compound as an oil. HPLC analysis indicated 97.8% PAR.

reactant | methyl-(1S,2R,3S)-1-(3,4-methylenedioxyphenyl)-3-(4-methoxy-2-hydroxyphenyl)-5-propoxyindane-2-carboxylate | 49.0 g | COC(=O)[C@@H]1[C@H](C2=CC=C(C=C2[C@H]1C1=C(C=C(C=C1)OC)O)OCCC)C1=CC2=C(C=C1)OCO2 | C28H28O7
reactant | potassium carbonate | 71.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 110 mmol, 17.3 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 490 mL | CC(=O)C | C3H6O
product | (+)-methyl-(1S,2R,3S)-5-Propoxy-1-(3,4-methylenedioxy-phenyl)-3-(2-[carbomethoxy]methoxy-4-methoxyphenyl)indane-2-carboxylate | COC(=O)[C@@H]1[C@H](C2=CC=C(C=C2[C@H]1C1=C(C=C(C=C1)OC)OCC(=O)OC)OCCC)C1=CC2=C(C=C1)OCO2 | C31H32O9
